US07858800B2
3) Production of tert-butyl 4-(1H-imidazol-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylate
A methanolic solution of ammonium (2.0 ml) was added to 50 mg of the compound prepared in the above 2), i.e. tert-butyl 4-(1-tert-butoxycarbonyl-1H-imidazol-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylate and the mixture was stirred for 5 hours. The solvent was evaporated in vacuo and the precipitate was filtered to give 32 mg of the title product as a white solid.

reactant | ammonium | 2.0 ml | [NH4+]
reactant | tert-butyl 4-(1-tert-butoxycarbonyl-1H-imidazol-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | C(C)(C)(C)OC(=O)N1C=NC(=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C18H27N3O4
product | tert-butyl 4-(1H-imidazol-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 32 mg | N1C=NC(=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C13H19N3O2
